US07220862B2
3-(1-Benzyl-piperidin-4-yl)1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one
A stirred solution of [2-(2-amino-phenyl)-ethyl]-(1-benzyl-piperidin-4-yl)-amine (0.44 g, 1.42 mmol) in tetrahydrofuran (5 mL) at 0° C. was treated with carbonyl diimidazole (0.23 g, 1.42 mmol). The reaction was stirred for 30 min at 0° C. and at reflux for 1 h. After cooling to room temperature, the solvent was evaporated and the residue purified by column to afford 100 mg (21%) of the desired product. LC/MS: tR=1.29 min, 336.34 (MH)+.

reactant | [2-(2-amino-phenyl)-ethyl]-(1-benzyl-piperidin-4-yl)-amine | 1.42 mmol, 0.44 g | NC1=C(C=CC=C1)CCNC1CCN(CC1)CC1=CC=CC=C1 | C20H27N3
reactant | carbonyl diimidazole | 1.42 mmol, 0.23 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-(1-Benzyl-piperidin-4-yl)1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | 100 mg, 21% | C(C1=CC=CC=C1)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C21H25N3O
